US07709503B2
Intermediate 12: Ethyl 5-ethyl-1H-pyrrole-2-carboxylate
Absolute EtOH (6 ml) was added to a 21 wt % solution of sodium ethoxide in EtOH (0.33 ml, 1.05 mmol) followed by the portion-wise addition of 2,2,2-trichloro-1-(5-ethyl-1H-pyrrol-2-yl)ethanone (J. Chem. Soc. Perkin Trans 1, 1996, 03) (2.1 g, 8.75 mmol) under nitrogen. The resulting yellow solution was stirred at room temperature for 30 minutes. Then the reaction was concentrated to give light orange oil. Hydrochloric acid (3 M, 2.5 ml) and diethyl ether (8 ml) were added to the oil and layers separated. The aqueous layer was extracted with diethyl ether (×2) and the combined organic extracts were washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated to give the desired product as a white solid (1.27 g, 86%).

reactant | EtOH | 6 ml | CCO | C2H6O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | EtOH | 1.05 mmol, 0.33 ml | CCO | C2H6O
reactant | 2,2,2-trichloro-1-(5-ethyl-1H-pyrrol-2-yl)ethanone | 8.75 mmol, 2.1 g | ClC(C(=O)C=1NC(=CC1)CC)(Cl)Cl | C8H8Cl3NO
reactant | Hydrochloric acid | 3 M, 2.5 ml | Cl | ClH
solvent | diethyl ether | 8 ml | C(C)OCC | C4H10O
product | Ethyl 5-ethyl-1H-pyrrole-2-carboxylate | 1.27 g, 86% | C(C)C1=CC=C(N1)C(=O)OCC | C9H13NO2
